US04032519
3,3,4,4-Tetramethyl-1,2-diazetine-1,2-dioxide
The product could also be obtained by oxidation of the dihydroxylamino precursor with sodium periodate. Thus, N,N'-dihydroxy 2,3-dimethyl-2,3-diaminobutane (1.5 g.) in water (50 ml.) was stirred for 30 min. with aqueous sodium periodate (4.5 g. in ca. 100 ml. water). The product precipitated out and was extracted with chloroform. The chloroform extract was washed with water, dried (MgSO4), and evaporated to give the product (800 mg., 65°) T.L.C. (silica, CHCl3 /MeOH:4/1) one spot, Rf 0.8).

reactant | N,N'-dihydroxy 2,3-dimethyl-2,3-diaminobutane | 1.5 g | ONC(C)(C(C)(NO)C)C | C6H16N2O2
reactant | sodium periodate | ca. 100 ml, 4.5 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
solvent | water | 50 ml | O | H2O
product | 3,3,4,4-Tetramethyl-1,2-diazetine-1,2-dioxide | CC1([N+](=[N+](C1(C)C)[O-])[O-])C | C6H12N2O2
